US06369075B1
(S)-7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (1-pyridin-2-yl-propyl)-amide ethanesulfonate
(S)-7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (1-pyridin-2-yl-propyl)-amide (67 mg) was dissolved in 5 ml of ethyl acetate, and ethanesulfonic acid (13 mg, 1 equivalent) was added as a solution in 1.5 ml of ethyl acetate. After 60 min, the mixture was concentrated under vacuum to afford 80 mg of the title compound as a yellow solid.

reactant | (S)-7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (1-pyridin-2-yl-propyl)-amide | 67 mg | N1=C(C=CC=C1)[C@H](CC)NC(=O)C=1C=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C32H25F3N4O2
reactant | ethanesulfonic acid | 13 mg, 1 equivalent | C(C)S(=O)(=O)O | C2H6O3S
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.5 ml | C(C)(=O)OCC | C4H8O2
product | (S)-7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (1-pyridin-2-yl-propyl)-amide ethanesulfonate | 80 mg | C(C)S(=O)(=O)O.N1=C(C=CC=C1)[C@H](CC)NC(=O)C=1C=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C32H25F3N4O2.C2H6O3S/c1-2-27(28-9-5-6-16-36-28)39-30(40)22-17-21-12-15-24(18-29(21)37-19-22)38-31(41)26-8-4-3-7-25(26)20-10-13-23(14-11-20)32(33,34)35;1-2-6(3,4)5/h3-19,27H,2H2,1H3,(H,38,41)(H,39,40);2H2,1H3,(H,3,4,5)/t27-;/m0./s1
